US05235056
1-Hydroxy-2,6-diphenyl-4,4-dioctyloxypiperidine
The general procedure of Example 12 is repeated using 10.0 g (0.035 mole) 1-hydroxy-2,6-diphenyl-4-piperidone oxime, 25.0 g (0.19 moles) 1-octanol and 7.0 g (0.073 moles) methanesulfonic acid. 5.8 g (32% yield) of the title compound is isolated as a clear oil after purification by LC (silica gel, ethyl acetate:hexane).

reactant | 1-hydroxy-2,6-diphenyl-4-piperidone oxime | 0.035 mole, 10.0 g | ON1C(CC(CC1C1=CC=CC=C1)=NO)C1=CC=CC=C1 | C17H18N2O2
reactant | 1-octanol | 0.19 moles, 25.0 g | C(CCCCCCC)O | C8H18O
reactant | methanesulfonic acid | 0.073 moles, 7.0 g | CS(=O)(=O)O | CH4O3S
product | 1-Hydroxy-2,6-diphenyl-4,4-dioctyloxypiperidine | 5.8 g, 32% yield | ON1C(CC(CC1C1=CC=CC=C1)(OCCCCCCCC)OCCCCCCCC)C1=CC=CC=C1 | C33H51NO3
